* NexRx Digital Twin - Hexafilar Transformer (Library)
* 200 ohm to 3x 22 ohm splitter for QSD drive
*
* Core: BN-43-202 (binocular ferrite, Type 43 material)
* Windings: 6 x 2 turns (hexafilar wound)
*   - Primary: 3 windings in series (6 turns total, 200 ohm)
*   - Secondary: 3 separate windings (2 turns each, ~22 ohm)
*
* Turns ratio: 6:2 = 3:1 (primary to each secondary)
* Impedance ratio: 9:1, so 200 ohm -> 22.2 ohm per secondary
*
* BN-43-202 AL = 2200 nH/turn^2
* Each 2-turn winding: L = 2200 * 4 = 8.8 uH
* Primary (6 turns effective): L = 2200 * 36 = 79.2 uH
*
* Copyright 2026 NexRx Project - MIT License

*======================================================================
* HEXAFILAR TRANSFORMER SUBCIRCUIT
*
* Ports:
*   PRI_P, PRI_N  - Primary (200 ohm)
*   SEC_A, SEC_B, SEC_C - Secondary outputs (each ~22 ohm to GND)
*   GND - Ground reference for secondaries
*
* Primary: 3 windings in series (W1-W2-W3)
* Secondaries: W4, W5, W6 each independent
*======================================================================

.SUBCKT XFMR_HEXAFILAR PRI_P PRI_N SEC_A SEC_B SEC_C GND

*----------------------------------------------------------------------
* Primary: 3 windings in series = 6 turns total
* L_pri = AL * N^2 = 2200nH * 36 = 79.2uH
* DCR = 3 * 100mOhm = 300mOhm (three 2-turn windings in series)
*----------------------------------------------------------------------
R_PRI PRI_P PRI_L 0.3
L_PRI PRI_L PRI_N 79.2u

*----------------------------------------------------------------------
* Secondaries: Each 2 turns, L = 2200nH * 4 = 8.8uH
* DCR = 100mOhm each
*----------------------------------------------------------------------
R_SEC_A SEC_A SEC_A_L 0.1
L_SEC_A SEC_A_L GND 8.8u

R_SEC_B SEC_B SEC_B_L 0.1
L_SEC_B SEC_B_L GND 8.8u

R_SEC_C SEC_C SEC_C_L 0.1
L_SEC_C SEC_C_L GND 8.8u

*----------------------------------------------------------------------
* Coupling coefficients (hexafilar wound = very tight coupling)
* Primary to each secondary: k ~ 0.995
* Secondary to secondary: k ~ 0.995
*
* Turns ratio = sqrt(L_pri/L_sec) = sqrt(79.2/8.8) = 3:1
* Impedance ratio = L_pri/L_sec = 9:1 (200 ohm -> 22 ohm)
*----------------------------------------------------------------------

* Primary to secondaries
K_PRI_A L_PRI L_SEC_A 0.995
K_PRI_B L_PRI L_SEC_B 0.995
K_PRI_C L_PRI L_SEC_C 0.995

* Secondary to secondary coupling
K_A_B L_SEC_A L_SEC_B 0.995
K_A_C L_SEC_A L_SEC_C 0.995
K_B_C L_SEC_B L_SEC_C 0.995

.ENDS XFMR_HEXAFILAR

*======================================================================
* IDEAL HEXAFILAR (for faster simulation / debugging)
* Uses dependent sources to enforce exact 3:1 turns ratio
* V_sec = V_pri / 3, I_pri = I_sec_total / 3
*======================================================================

.SUBCKT XFMR_HEXAFILAR_IDEAL PRI_P PRI_N SEC_A SEC_B SEC_C GND

* Voltage sources to enforce 3:1 ratio (6 turns : 2 turns)
* V_sec = V_pri / 3
E_SEC_A SEC_A GND PRI_P PRI_N 0.333333
E_SEC_B SEC_B GND PRI_P PRI_N 0.333333
E_SEC_C SEC_C GND PRI_P PRI_N 0.333333

* Current sensing for power balance
VSENSE_A SEC_A SEC_A_INT 0
VSENSE_B SEC_B SEC_B_INT 0
VSENSE_C SEC_C SEC_C_INT 0

* Tiny load resistors to allow current sensing
R_LOAD_A SEC_A_INT GND 1e-6
R_LOAD_B SEC_B_INT GND 1e-6
R_LOAD_C SEC_C_INT GND 1e-6

* Reflect current to primary: I_pri = (I_sec_a + I_sec_b + I_sec_c) / 3
F_PRI_A PRI_P PRI_N VSENSE_A 0.333333
F_PRI_B PRI_P PRI_N VSENSE_B 0.333333
F_PRI_C PRI_P PRI_N VSENSE_C 0.333333

.ENDS XFMR_HEXAFILAR_IDEAL
